US05840732
ii) Synthesis of 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]thiazolidine-2,4-dione hydrochloride
To a solution of 0.723 g (2.1 mmol) of 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]thiazolidine-2,4-dione in 20 ml of methanol, 0.25 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.755 g (94.2%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]thiazolidine-2,4-dione | 2.1 mmol, 0.723 g | C(CCC)=C1C(N(C(S1)=O)CCSC1=CC=CC=2N1C=CN2)=O | C16H17N3O2S2
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-ylthio)ethyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C16H17N3O2S2.ClH/c1-2-3-5-12-15(20)19(16(21)23-12)10-11-22-14-7-4-6-13-17-8-9-18(13)14;/h4-9H,2-3,10-11H2,1H3;1H
